US07034039B2
To solution of 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carboxylic acid (0.15 g, 0.33 mmol) in N,N-dimethylformamide (5 mL) was added diphenylphosphoryl azide (0.09 mL, 0.40 mmol) and triethylamine (0.056 mL, 0.40 mmol), and the mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water (50 mL) and extracted with ethyl acetate (30 mL×2). The organic layers were combined, washed with water (50 mL) and brine (20 mL), dried, over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (20 mL), and the solution was refluxed for 1 h. The reaction mixture was allowed to cool to room temperature, and a mixture of O-methylhydroxyamine hydrochloride (0.088 g, 0.40 mmol) and triethylamine (0.056 mL, 0.40 mmol) in N,N-dimethylformamide (2 mL) was added thereto. The resulting reaction mixture was stirred at room temperature for 1 h and then poured into water (100 mL). The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed with 0.1M aqueous citric acid solution (20 mL) and brine (10 mL), dried over anhydrous, magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1 (v/v)) to give tert-butyl(2-isobutyl-6-{[(methoxyamino)carbonyl]amino}-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.13 g, 81%) as a colorless oil.

reactant | 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carboxylic acid | 0.33 mmol, 0.15 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)=O)CC(C)C | C26H30N2O5
reactant | diphenylphosphoryl azide | 0.40 mmol, 0.09 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | O-methylhydroxyamine hydrochloride | 0.40 mmol, 0.088 g | Cl.CON
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | tert-butyl(2-isobutyl-6-{[(methoxyamino)carbonyl]amino}-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.13 g, 81% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NC(=O)NOC)=O)CC(C)C)=O | C27H34N4O5
